US08877779B2
To 1-[1-(1,2,2a,3,4,5-hexahydroacenaphthylen-5-yl)piperidin-4-yl]-1,3-dihydro-2H -benzimidazol-2-one (500 mg), dimethylacetamide (3 ml) and potassium carbonate (370 mg) was added 3-bromopropanol (0.242 ml), and the mixture was stirred with heating at 85° C. for 2 hr. The reaction mixture was cooled to room temperature, water was added, and the precipitate was collected by filtration to give 1-[1-(1,2,2a,3,4,5-hexahydroacenaphthylen-5-yl)piperidin-4-yl]-3-(3-hydroxypropyl)-1,3-dihydro-2H-benzimidazol-2-one.

reactant | 1-[1-(1,2,2a,3,4,5-hexahydroacenaphthylen-5-yl)piperidin-4-yl]-1,3-dihydro-2H -benzimidazol-2-one | 500 mg | C1CC2CCC(C3=CC=CC1=C23)N2CCC(CC2)N2C(NC3=C2C=CC=C3)=O | C24H27N3O
reactant | dimethylacetamide | 3 ml | CC(=O)N(C)C | C4H9NO
reactant | potassium carbonate | 370 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromopropanol | 0.242 ml | BrCCCO | C3H7BrO
solvent | water | O | H2O
product | 1-[1-(1,2,2a,3,4,5-hexahydroacenaphthylen-5-yl)piperidin-4-yl]-3-(3-hydroxypropyl)-1,3-dihydro-2H-benzimidazol-2-one | C1CC2CCC(C3=CC=CC1=C23)N2CCC(CC2)N2C(N(C3=C2C=CC=C3)CCCO)=O | C27H33N3O2
